US05231102
b) 4-(3-Chloroprop-2-ynyl)phenylacetic acid methyl ester
To a solution of 4-(3-Hydroxyprop-2-ynyl)phenylacetic acid methyl ester (5.5 g, 0.027M) in tetrahydrofuran (110 ml) and carbon tetrachloride (110 ml) was added triphenylphosphine (7.81 g, 1.1 molar equivalents). The reaction mixture was heated at 60° C. for 3 h. After cooling, the solid obtained was removed by filtration and the mother liquors were concentrated under vacuum. The residue was purified by chromatography on silica gel using 50% diethyl ether in hexane as eluent to give the required product (5.35 g) as a colourless oil. δ (360 MHz, CDCl3) 3.62 (2H, s, CH2CO2CH3), 3.69 (3H, s, CH2CO2CH3), 4.36 (2H, s, CH2Cl), 7.23 (2H, d, J=8.2 Hz, ArH), 7.40 (2H, d, J=8.2 Hz, ArH).

reactant | 4-(3-Hydroxyprop-2-ynyl)phenylacetic acid methyl ester | 0.027M, 5.5 g | COC(CC1=CC=C(C=C1)CC#CO)=O | C12H12O3
reactant | triphenylphosphine | 1.1 molar, 7.81 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrachloride | 110 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | tetrahydrofuran | 110 ml | O1CCCC1 | C4H8O
product | 4-(3-Chloroprop-2-ynyl)phenylacetic acid methyl ester | 5.35 g | COC(CC1=CC=C(C=C1)CC#CCl)=O | C12H11ClO2
